US05932571
Alternately, combine 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane (1.72 g, 5.43 mmol) and sodium hydride (0.36 g, 60% in oil, 8.15 mmol) in dimethylformamide (40 mL). After 4 hours, add 2-(t-butyldimethylsilyloxy)ethyl iodide (1.56 g, 5.43 mmol). After 72 hours, heat to 80° C. After 3 hours, cool to ambient temperature and add ice to quench. Partition the reaction mixture between ethyl acetate (250 mL) and a saturated aqueous solution of sodium bicarbonate (200 mL). Separate the layers and extract the organic layer with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 40% ethyl acetate/dichloromethane to give 1-(t-butoxycarbonyl)-4-(1-(2-(t-butyldimethylsilyloxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane.

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 5.43 mmol, 1.72 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | sodium hydride | 8.15 mmol, 0.36 g | [H-].[Na+]
reactant | 2-(t-butyldimethylsilyloxy)ethyl iodide | 5.43 mmol, 1.56 g | [Si](C)(C)(C(C)(C)C)OCCI | C8H19IOSi
reactant | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 1-(t-butoxycarbonyl)-4-(1-(2-(t-butyldimethylsilyloxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO[Si](C)(C)C(C)(C)C)C=CC=C2 | C25H42N4O3Si
